US07956070B2
Step 2: 3-(tert-Butoxycarbonyl)-4-chlorobenzoic acid
3-tert-Butyl 1-methyl 4-chloroisophthalate (0.37 g) in THF (5 mL) was treated with lithium hydroxide (0.17 g) in water (5 mL) and the mixture was stirred for 18 h. The solvent was evaporated. Water and ethyl acetate were added. The aqueous extract was separated and acidified with dilute hydrochloric acid. The product was extracted into ethyl acetate. The solution was dried over sodium sulphate, filtered and the solvent was evaporated to yield the subtitle compound as a white solid (0.32 g).

reactant | 3-tert-Butyl 1-methyl 4-chloroisophthalate | 0.37 g | ClC1=C(C=C(C(=O)OC)C=C1)C(=O)OC(C)(C)C | C13H15ClO4
reactant | lithium hydroxide | 0.17 g | [OH-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-(tert-Butoxycarbonyl)-4-chlorobenzoic acid | 0.32 g | C(C)(C)(C)OC(=O)C=1C=C(C(=O)O)C=CC1Cl | C12H13ClO4
